US07205320B2
N-(3-Cyclopentyloxy-4-methoxyphenyl)-N-(3-pyridylmethyl)-2-aminobenzoic acid
Tert-Butyl N-(3-cyclopentyloxy-4-methoxyphenyl)-N-(3-pyridylmethyl)-2-aminobenzoate (60 mg, 0.13 mmol) was taken up in 2 mL 98% formic acid and heated at 40° C. for 4 h. The formic acid was removed in vacuo and the residue was loaded onto a column of silica gel (RediSep, 4.2 g). The product was eluted with a linear gradient from 40% EtOAc in hexanes to 60% EtOAc in hexanes over 15 min to yield 16 mg of product as a brown solid. 1H NMR (CDCl3) δ 8.47 (d, 1H, J=4.9), 8.43 (s, 1H), 8.10 (d, 1H, J=7.8), 7.67 (d, 1H, J=7.8 Hz), 7.56 (m, 1H), 7.40–7.20 (m, 3H), 6.75 (d, 1H, J=8.7), 6.57 (d, 1H, J=8.7), 6.47 (s, 1H), 4.72 (s, 2H), 4.54 (p, 1H, J=4.3), 3.77 (s, 3H), 1.80–1.60 (m, 6H), 1.60–1.40 (m, 2H).

reactant | Tert-Butyl N-(3-cyclopentyloxy-4-methoxyphenyl)-N-(3-pyridylmethyl)-2-aminobenzoate | 0.13 mmol, 60 mg | C1(CCCC1)OC=1C=C(C=CC1OC)N(C1=C(C(=O)OC(C)(C)C)C=CC=C1)CC=1C=NC=CC1 | C29H34N2O4
solvent | formic acid | 2 mL | C(=O)O | CH2O2
product | N-(3-Cyclopentyloxy-4-methoxyphenyl)-N-(3-pyridylmethyl)-2-aminobenzoic acid | 16 mg | C1(CCCC1)OC=1C=C(C=CC1OC)N(C1=C(C(=O)O)C=CC=C1)CC=1C=NC=CC1 | C25H26N2O4
